US08980938B2
b) 2-Methyl-2-[(1-phenethyloxy-5,6,7,8-tetrahydro-naphthalene-2-carbonyl)-amino]-propionic acid
The following examples were prepared in analogy to example 1 via a sequence of an alkylation reaction to attach a suitably substituted alkylating agent to the aromatic hydroxy group of 2-[(1-hydroxy-5,6,7,8-tetrahydro-naphthalene-2-carbonyl)-amino]-2-methyl-propionic acid methyl ester or 2-[(7-Hydroxy-benzo[b]thiophene-6-carbonyl)-amino]-2-methyl-propionic acid methyl ester and a basic hydrolysis of the amino acid ester to the free amino acid:

reactant | 2-[(1-hydroxy-5,6,7,8-tetrahydro-naphthalene-2-carbonyl)-amino]-2-methyl-propionic acid methyl ester | COC(C(C)(C)NC(=O)C1=C(C=2CCCCC2C=C1)O)=O | C16H21NO4
reactant | 2-[(7-Hydroxy-benzo[b]thiophene-6-carbonyl)-amino]-2-methyl-propionic acid methyl ester | COC(C(C)(C)NC(=O)C=1C=CC2=C(SC=C2)C1O)=O | C14H15NO4S
product | 2-Methyl-2-[(1-phenethyloxy-5,6,7,8-tetrahydro-naphthalene-2-carbonyl)-amino]-propionic acid | CC(C(=O)O)(C)NC(=O)C1=C(C=2CCCCC2C=C1)OCCC1=CC=CC=C1 | C23H27NO4
